US06528525B1
2-(Benzoxazole-2-ylthio)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-248 compound)
In a similar manner to that described in Example 2, methyl 2-(benzoxazole-2-ylthio)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (361 mg), which is the product of Example 156, was reacted with aqueous sodium hydroxide solution (1N, 1.30 ml) and the reaction mixture was treated to give the title compound (248 mg) as colorless crystals.

reactant | methyl 2-(benzoxazole-2-ylthio)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 361 mg | O1C(=NC2=C1C=CC=C2)SC(C(=O)OC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O | C31H27N3O5S
reactant | sodium hydroxide | 1N, 1.30 ml | [OH-].[Na+]
product | 2-(Benzoxazole-2-ylthio)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 248 mg | O1C(=NC2=C1C=CC=C2)SC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O | C30H25N3O5S
